US04207327
4-Amino-N-(1,2-diethyl-4-pyrazolidinyl)benzamide.
A solution of 20 g. (0.069 mole) of 4-nitro-N-(1,2-diethyl-4-pyrazolidinyl)benzamide in ethanol was treated with Raney nickel and shaken in three atmospheres of hydrogen in a Parr apparatus at room temperature for two hours. The mixtures was filtered, the filtrate concentrated and the residue crystallized from isopropyl ether-ethyl acetate. The product (12.0 g.; 66.5%) melted at 119°-121° C.

reactant | 4-nitro-N-(1,2-diethyl-4-pyrazolidinyl)benzamide | 0.069 mole | [N+](=O)([O-])C1=CC=C(C(=O)NC2CN(N(C2)CC)CC)C=C1 | C14H20N4O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-Amino-N-(1,2-diethyl-4-pyrazolidinyl)benzamide | NC1=CC=C(C(=O)NC2CN(N(C2)CC)CC)C=C1 | C14H22N4O
